US06500952B1
2-Dimethylaminocarbonyl-5-nitrobenzenesulfonamide
37 ml of concentrated ammonia solution (33% strength) are added dropwise at 5° C. and with stirring to a mixture of 77.8 g of 2-dimethylaminocarbonyl-5-nitrobenzenesulfonyl chloride and 780 ml of tetrahydrofuran. The mixture is subsequently stirred until the end of the reaction. The reaction mixture is concentrated under reduced pressure and the residue is stirred with a little water. Drying gives 66.9 g of the desired product. m.p.: 159-160° C.

reactant | ammonia | 37 ml | N | H3N
reactant | 2-dimethylaminocarbonyl-5-nitrobenzenesulfonyl chloride | 77.8 g | CN(C(=O)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl)C | C9H9ClN2O5S
solvent | tetrahydrofuran | 780 ml | O1CCCC1 | C4H8O
product | 2-Dimethylaminocarbonyl-5-nitrobenzenesulfonamide | 66.9 g | CN(C(=O)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N)C | C9H11N3O5S
